US04371726
To 4 mols of 1,1-diphenylethane was added 0.001 to 0.005 mol of aluminum chloride. The mixture was heated to 60° C. and allowed to react upon 1 mol of benzyl chloride added thereto for 20 minutes. Then, the reaction mixture was washed with water to remove the used catalyst and subsequently distilled to expel the unreacted portions of the reactants. The isolated 1-(benzylphenyl-1-phenylethane (mixture of isomers) was supplied to an autoclave and, in the presence of a nickel catalyst, subjected to hydrogenation under the conditions of 100 kg/cm2G of initial hydrogen pressure, 140° to 170° C. of temperature for five hours, to afford hydrogenated 1-(benzylphenyl)-1-phenylethane (mixture of isomers). The general attributes of this reaction product were as shown in Table 2.

reactant | 1,1-diphenylethane | 4 mols | C1(=CC=CC=C1)C(C)C1=CC=CC=C1 | C14H14
reactant | aluminum chloride | 0.001 to 0.005 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzyl chloride | 1 mol | C(C1=CC=CC=C1)Cl | C7H7Cl
product | benzylphenyl-1-phenylethane | C(C1=CC=CC=C1)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20
